US08497381B2
Step 2: [6-Methoxy-2′-(4-methyl-2,5-dioxo-4-phenyl-imidazolidin-1-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester
To (2′-hydroxymethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.158 g, 0.44 mmol), 5-methyl-5-phenylhydantoin (0.102 g, 0.53 mmol), and triphenylphosphine (0.141 g, 0.53 mmol) in THF (3 mL) was added diisopropyl azodicarboxylate (0.1 mL, 0.53 mmol), and the reaction was stirred overnight at room temperature. Once no starting material was seen by analytical LCMS, the mixture was concentrated and purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | (2′-hydroxymethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.44 mmol, 0.158 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CO)=O | C18H17F3O4
reactant | 5-methyl-5-phenylhydantoin | 0.53 mmol, 0.102 g | CC1(C(NC(N1)=O)=O)C1=CC=CC=C1 | C10H10N2O2
reactant | triphenylphosphine | 0.53 mmol, 0.141 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.53 mmol, 0.1 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [6-Methoxy-2′-(4-methyl-2,5-dioxo-4-phenyl-imidazolidin-1-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(NC(C1=O)(C1=CC=CC=C1)C)=O)=O | C28H25F3N2O5
